* C:\Users\MBX\Desktop\Investigacion\Spice-LK-Model\Fe_model\Fe_test.asc
V1 in 0 SINE(0 2 5 0 0 0 10)
Rsh 0 N001 0.00000001
B1 Q 0 V=idt(-I(Rsh))
XU2 in N001 ql qn qt fe_tanh Vc=1 Qo=1 K=2.6
.tran 0 0.4 0 1e-7
.lib C:\Users\MBX\Desktop\Investigacion\Spice-LK-Model\Fe_model\fe_tanh.sp
.backanno
.end
